* geda-gaf/gnetlist/src/.libs/lt-gnetlist -g spice-sdb multiequal.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*============== Begin SPICE netlist of main design ============
V1 1 0 DC 1V
R1 0 1 20  
.OPTIONS abotol=1e-11
.end
